US04289914
PREPARATION OF 2-METHYL-2-(1,1,3,3-TETRAMETHYLBUTYLPEROXY)-4-PENTANONE
A mixture of 49 g (0.50 mole) of mesityl oxide and 10 g of Amberlyst 15® sulfonic acid type ion-exchange resin was stirred at 0°-5° C., while 78 g (0.45 mole) of 84% 1,1,3,3-tetramethylbutyl hydroperoxide was added slowly. The reaction mixture was allowed to warm to 25° C. and the stirring continued for 16 hours. The ion-exchange resin was separated by filtration. Iodometric assay showed that substantially all of the hydroperoxide had reacted. The infrared spectrum and G.L.C. showed the presence of the desired product.

reactant | mesityl oxide | 0.50 mole, 49 g | O=C(C)C=C(C)C | C6H10O
reactant | 1,1,3,3-tetramethylbutyl hydroperoxide | 0.45 mole, 78 g | CC(CC(C)(C)C)(C)OO | C8H18O2
product | 2-METHYL-2-(1,1,3,3-TETRAMETHYLBUTYLPEROXY)-4-PENTANONE | CC(C)(CC(C)=O)OOC(CC(C)(C)C)(C)C | C14H28O3
